US04992534
To a solution of 1.00 g of 3'-O-(5-chloro-2- thenyl)-2'-deoxy-5-fluorouridine in 50 ml of pyridine were added 0.72 g of N,N-diethyl-β-alanine hydrochloride and 1.61 g of triisopropylbenzenesulfonyl chloride, and the mixture was stirred at room temperature for 1 day. The reaction mixture was concentrated under reduced pressure, and the residue was placed on silica gel column and eluted with 2% methanol-chloroform for purification, thereby giving 0.97 g of 3'-O-(5-chloro-2-thenyl)-2'-deoxy-5'-O- [3-(diethylamino)propanoyl]-5-fluorouridine 2,4,6-triisopropylbenzenesulfonate.

reactant | 3'-O-(5-chloro-2- thenyl)-2'-deoxy-5-fluorouridine | 1.00 g | ClC1=CC=C(S1)CO[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)F | C14H14ClFN2O5S
reactant | N,N-diethyl-β-alanine hydrochloride | 0.72 g | Cl.C(C)N(CCC(=O)O)CC
reactant | triisopropylbenzenesulfonyl chloride | 1.61 g | C(C)(C)C1=C(C(=C(C=C1)S(=O)(=O)Cl)C(C)C)C(C)C | C15H23ClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3'-O-(5-chloro-2-thenyl)-2'-deoxy-5'-O- [3-(diethylamino)propanoyl]-5-fluorouridine 2,4,6-triisopropylbenzenesulfonate | 0.97 g, Yield: 46% | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)O.ClC1=CC=C(S1)CO[C@H]1C[C@@H](O[C@@H]1COC(CCN(CC)CC)=O)N1C(=O)NC(=O)C(=C1)F | InChI=1S/C21H27ClFN3O6S.C15H24O3S/c1-3-25(4-2)8-7-19(27)31-12-16-15(30-11-13-5-6-17(22)33-13)9-18(32-16)26-10-14(23)20(28)24-21(26)29;1-9(2)12-7-13(10(3)4)15(19(16,17)18)14(8-12)11(5)6/h5-6,10,15-16,18H,3-4,7-9,11-12H2,1-2H3,(H,24,28,29);7-11H,1-6H3,(H,16,17,18)/t15-,16+,18+;/m0./s1
